US07572801B2
2-[3-(2-Chloro-phenoxy)-propoxy]-5-methyl-3H-pyrido[2,3-d]pyrimidin-4-one
In analogy to the procedure described in example 97.3, 2-chloro-5-methyl-3H-pyrido[2,3-d]pyrimidin-4-one hydrochloride was reacted with 3-(2-chloro-phenoxy)-propan-1-ol [60222-56-2] in DMSO in the presence of molecular sieves and potassium tert-butylate to give the title compound as off-white crystals. MS: m/e=346.1 [M+H+].

reactant | 2-chloro-5-methyl-3H-pyrido[2,3-d]pyrimidin-4-one hydrochloride | Cl.ClC=1NC(C2=C(N1)N=CC=C2C)=O
reactant | 3-(2-chloro-phenoxy)-propan-1-ol | ClC1=C(OCCCO)C=CC=C1 | C9H11ClO2
reactant | potassium tert-butylate | CC(C)(C)[O-].[K+]
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-[3-(2-Chloro-phenoxy)-propoxy]-5-methyl-3H-pyrido[2,3-d]pyrimidin-4-one | ClC1=C(OCCCOC=2NC(C3=C(N2)N=CC=C3C)=O)C=CC=C1 | C17H16ClN3O3
